US06207678B1
Ethyl 2-cyano-2-(1-benzyl-4-(2-naphthyl)piperidin-4-yl)ethanoate
2-Bromonaphthalene (26 g) was dissolved in anhydrous diethyl ether (100 ml) and ⅕ of this solution added to a vigourously stirred mixture of magnesium turnings (3.3 g) and 2-3 iodine crystals under a nitrogen atmosphere. Gentle heating was applied to initiate formation of the Grignard reagent since it proved difficult to maintain spontaneous refluxing. The remainder of the 2-bromonaphthalene solution was added in 4 portions, allowing the refluxing to subside after each addition, and the mixture finally heated under reflux for 1 hour after which time two dark organic phases had formed. The mixture was cooled in an ice-bath and anhydrous tetrahydrofiran (50 ml) added followed by dropwise addition of a solution of ethyl 2-(1-benzylpiperidin-4-ylidene)-2-cyanoacetate (12 g) (see Preparation 2) in tetrahydrofuran (100 ml). The single phase mixture was stirred at 0° C. for 30 minutes before being left to stand at room temperature overnight. The mixture was then poured into saturated aqueous ammonium chloride solution (450 ml) and extracted twice with diethyl ether. The organic extracts were combined and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 4:0 changing to 4:1, by volume, dichloromethane:diethyl ether to give the title compound (5.9 g) as an oil.

reactant | 2-Bromonaphthalene | 26 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | magnesium | 3.3 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | ethyl 2-(1-benzylpiperidin-4-ylidene)-2-cyanoacetate | 12 g | C(C1=CC=CC=C1)N1CCC(CC1)=C(C(=O)OCC)C#N | C17H20N2O2
reactant | ammonium chloride | 450 ml | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-cyano-2-(1-benzyl-4-(2-naphthyl)piperidin-4-yl)ethanoate | 5.9 g | C(#N)C(C(=O)OCC)C1(CCN(CC1)CC1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1 | C27H28N2O2
